US09302991B2
<Step-2>: N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-propionamidopyrimidine-4-carboxamide (Example-210, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (20 mg, 0.05 mmol, Step-1, single enantiomer) and propionyl chloride (25 mg, 0.27 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | 0.05 mmol, 20 mg | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C14H13ClF3N5O2
reactant | propionyl chloride | 0.27 mmol, 25 mg | C(CC)(=O)Cl | C3H5ClO
product | N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-propionamidopyrimidine-4-carboxamide | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=NC(=NC=C1)NC(CC)=O | C17H17ClF3N5O3
